US07572820B2
G. 4-Chloro-2-methyl-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile
Synthesized as described in Example 4 from 4-chloro-2-methyl-1H-indole-5-carbonitrile and 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole:

reactant | 4-chloro-2-methyl-1H-indole-5-carbonitrile | ClC1=C2C=C(NC2=CC=C1C#N)C | C10H7ClN2
reactant | 3-(chloromethyl)-5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazole | ClCC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F | C10H6ClF3N2O
product | 4-Chloro-2-methyl-1-({5-[3-(trifluoromethyl)phenyl]-1,2,4-oxadiazol-3-yl}methyl)-1H-indole-5-carbonitrile | ClC1=C2C=C(N(C2=CC=C1C#N)CC1=NOC(=N1)C1=CC(=CC=C1)C(F)(F)F)C | C20H12ClF3N4O
